US05998613
2-Benzylamino-3,4,5,6-tetrahydrobenzamide 21a
A mixture of cyclohexanone-2-carboxamide (U.S. Pat. No. 4,169,952 to du Pont de Nemours, (1979)) (10.0 g), benzylamine (8.4 g), toluene (35 mL) and molecular sieves (Union Carbide 3A, 2 g) was refluxed for 2 h in a Dean-Stark water separator. The reaction mixture was filtered, and the filtrate was evaporated. The residue was crystallized from light petroleum to give the title compound (16 g). Mp 73-74° C.

reactant | cyclohexanone-2-carboxamide | C1CCC(=O)C(C1)C(=O)N | C7H11NO2
reactant | benzylamine | 8.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-Benzylamino-3,4,5,6-tetrahydrobenzamide | 16 g | C(C1=CC=CC=C1)NC1=C(C(=O)N)CCCC1 | C14H18N2O
